reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7]>>[H:6][H:8].[N:1](=[C:2]1\[O:3][C@:4]1([O:5][H:10])[H:9])\[H:7],93.26215025818328
[C:6](#[N:7])[H:11].[N:1](=[C:2](/[O:3][C:4](=[C:5]([H:12])[H:13])[H:10])[H:9])\[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],81.3349601936179
[C:1]([H:8])([H:9])([H:10])[H:11].[N:2](=[C:3]=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],80.4262091525213
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6][O:7][H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],80.7951383351227
[C:1](/[N:2]=[C:3](/[O:4][H:11])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],22.65343883811009
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6]#[N:7])([H:15])[H:16])([H:11])[H:13])([H:8])([H:9])[H:10].[H:12][H:14],93.4890757131646
[C:1](/[C:2](=[C:3](\[O:4][H:10])[H:11])[C:5]#[C:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],60.069893519878775
[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:6]=[C:5]=[C:3]=[O:4])([H:10])[H:11])([H:7])([H:8])[H:9],101.279531155645
[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[O:1]=[C:2]([C:3]([H:6])([H:7])[H:8])[C:4]#[N:5],98.8697275325086
[C:1]([C@@:2]1([H:10])[C:3][C@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:7])([H:8])[H:9].[C:4]([H:11])([H:12])([H:13])[H:14]>>[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:7])([H:8])[H:9],15.934603574753083
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[N:1](=[C:2]1/[C@@:3]2([H:7])[C@:4]1([H:8])[C:5]([H:10])([H:11])[O:6]2)\[H:9],108.004404700177
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C-:1]([N:2]([C+:3]1[N-:4][N:5]([H:12])[C+:6]([H:13])[C:7]1([H:8])[H:14])[H:11])([H:9])[H:10],76.8025245590945
[C:1]1([H:7])([H:9])[C@:2]([O:3][H:11])([H:10])[C:4]([H:12])([H:13])[C:5][N:6]1[H:8]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],56.868416283830804
[C:1]([C:2]([C:3]([N:7]=[C:6]=[C:4]([C:5]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10],71.74404904951581
[C-:1]([N+:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])([H:8])[H:11])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],14.020018429394995
[C:4]([C:5](=[O:6])[H:11])([H:7])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8],72.97105190119544
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:2]([O+:3]=[C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])[H:13])([H:11])[H:12].[C:1]([H:8])([H:9])([H:10])[H:14],96.4355354445607
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[H:8][H:9].[O:1]([C:2]1=[C:3]([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],120.07984149039
[O:1]([C:2]([C:3]([O:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5]>>[C:3]([H:8])[H:9].[O:1]([C:2]([O:4][H:10])([H:6])[H:7])[H:5],119.53808435633002
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[C:2]1([H:8])([H:9])[C@@:3]([O:4][H:11])([H:10])[C@@:5]1([O:6][H:14])[H:12].[O:1]([H:7])[H:13],102.248212657326
[C:1]1([H:9])([H:10])[C@:2]([C:3](=[O:4])[H:12])([H:11])[C@:5]1([O:6][H:8])[N:7]([H:13])[H:14]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],51.1647991565829
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]=[C:3]=[C:4]=[O:5])([H:8])[H:10].[C:6](#[C:7][H:11])[H:9],72.16823920055309
[C-:5]#[O+:6].[C:1]([N:2]([C:3][N:4]([H:10])[H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],25.745524867449593
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[N:5][H:13])[N+:7]#[C-:6])([H:11])[H:12])([H:8])([H:9])[H:10],50.1548465416091
